US07629473B2
Synthesis of [2-(2-bromo-5-fluoro-phenyl)-ethyl]-methyl-amine (Method 8)
Lithium aluminum hydride (7.50 g, 197 mmol) is suspended in dry diethyl ether (75 mL) and cooled to 0° C. Aluminum (III) chloride (8.80 g, 65.8 mmol) dissolved in dry diethyl ether (75 mL) is added dropwise at 0-5° C. The cooling bath is removed and the mixture is stirred at ambient temperature for 1 hour. The resulting aluminum hydride reagent solution is cooled to 0° C. followed by dropwise addition of 2-(2-bromo-5-fluoro-phenyl)-N-methyl-acetamide (16.2 g, 65.8 mmol) dissolved in dry THF (150 mL). After complete addition the solution is allowed to heat to ambient temperature and stirring is continued for 16 hours. The mixture is cooled to 10° C. followed by slow dropwise addition of water (16 mL) followed by 2M sodium hydroxide (16 mL) and water (80 mL) to quench excessive reducing agent. The mixture is filtered and concentrated in vacuo. The remanence is redissolved in ethyl acetate (200 mL), dried (MgSO4) and concentrated again to give 14.6 g (95%) of the title compound as an oil.

reactant | Lithium aluminum hydride | 197 mmol, 7.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Aluminum (III) chloride | 65.8 mmol, 8.80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(2-bromo-5-fluoro-phenyl)-N-methyl-acetamide | 65.8 mmol, 16.2 g | BrC1=C(C=C(C=C1)F)CC(=O)NC | C9H9BrFNO
reactant | sodium hydroxide | 2M, 16 mL | [OH-].[Na+]
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
solvent | water | 16 mL | O | H2O
product | [2-(2-bromo-5-fluoro-phenyl)-ethyl]-methyl-amine | 14.6 g, 95% | BrC1=C(C=C(C=C1)F)CCNC | C9H11BrFN
